US08198269B2
Synthesis of (±)-(4aR*,8aS*)-8a-[2-fluoro-5-(2-fluoropyridin-3-yl)phenyl]-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-ylamine
2-Fluoropyridine-3-boronic acid (25.6 mg), tetrakis(triphenylphosphine)palladium (10.5 mg) and a 1 N sodium carbonate solution (182 μl ) were added to a solution of (±)-N-benzoyl-N-(tert-butyloxycarbonyl)-[(4aR*,8aS*)-8a-(5-bromo-2-fluorophenyl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]amine (50 mg) in DMF (5.0 ml). After replacement with nitrogen, the mixture was stirred at 90° C. for six hours. The reaction solution was cooled to room temperature and diluted with water. The aqueous layer was extracted with ethyl acetate. The organic layer was washed with water and brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by NH-silica gel column chromatography to obtain the title compound (12.7 mg).

reactant | 2-Fluoropyridine-3-boronic acid | 25.6 mg | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | sodium carbonate | 1 N, 182 μl | C([O-])([O-])=O.[Na+].[Na+]
reactant | (±)-N-benzoyl-N-(tert-butyloxycarbonyl)-[(4aR*,8aS*)-8a-(5-bromo-2-fluorophenyl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]amine | 50 mg | C(C1=CC=CC=C1)(=O)N(C(=O)OC(C)(C)C)C1=N[C@]2(COCC[C@H]2CS1)C1=C(C=CC(=C1)Br)F | C25H26BrFN2O4S
solvent | DMF | 5.0 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 10.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (±)-(4aR*,8aS*)-8a-[2-fluoro-5-(2-fluoropyridin-3-yl)phenyl]-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-ylamine | 12.7 mg | FC1=C(C=C(C=C1)C=1C(=NC=CC1)F)[C@@]12COCC[C@H]2CSC(=N1)N | C18H17F2N3OS
